data/mechanisms/records/IMS4-EQ4.45.json
{"mechanism_id": "IMS4-EQ4.45", "species": [{"species_id": "propyl_acetate_molecular_ion", "mapped_smiles": "[CH3:1][CH:2]([1H:8])[CH2:3][O:4][C:5](=[O+:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_radical_oxocarbenium", "mapped_smiles": "[CH3:1][CH:2][CH2:3][O:4][C:5](=[O+:6][1H:8])[CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propene_neutral", "mapped_smiles": "[CH3:1][CH:2]=[CH2:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "acetic_acid_radical_cation", "mapped_smiles": "[O:4][C:5](=[O+:6][1H:8])[CH3:7]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["propyl_acetate_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_gamma_radical_oxocarbenium"]}, {"state_id": "state_products", "species_ids": ["propene_neutral", "acetic_acid_radical_cation"]}], "steps": [{"step_id": "step_rH", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_cleavage", "from_state": "state_distonic", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH", "support_type": "textbook_proposed", "locator": {"page": 82, "equation": "4.45", "figure": null, "panel": "top-left precursor", "section": "4 / Basic Mechanisms of Ion Fragmentation"}, "confidence": 0.9, "curator_note": "gamma-H hydrogen rearrangement (McLafferty) of the carbonyl-n-ionized ester molecular ion through a 6-membered TS: the gamma H (H8, on C2) is transferred to the carbonyl oxygen O6, leaving a radical on the gamma carbon C2 and converting the ionized carbonyl into a protonated-carbonyl oxocarbenium (=O6(H8)+). Book draws 3 arcs; moves <1,2,3> are all drawn: <1> the O6 radical hook forming O6-H8, <2> the C2-H8 -> O6-H8 hook, <3> the C2-H8 homolysis hook leaving the radical on C2. Complete radical-site HAT, no implicit hooks."}, {"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 82, "equation": "4.45", "figure": null, "panel": "alpha arrow to top-right products", "section": "4 / Basic Mechanisms of Ion Fragmentation"}, "confidence": 0.85, "curator_note": "alpha-cleavage of the distonic ion: the gamma radical (C2) forms the C2=C3 pi bond while the beta C3-O4 bond cleaves, expelling neutral propene (R-CH=CH2) and leaving the ionized acid enol (acetic-acid radical cation, charge on O6 oxocarbenium, odd electron on the former ester O4). Book draws 0 arcs (the step is only labelled 'alpha'); all three moves <1,2,3> are implicit homolysis/pi-forming hooks required for electron balance (not drawn on the page). Resonance note: the book's top-right 4.45 product draws the complementary resonance form of this odd-electron acid ion -- H on the single-bonded oxygen (HO+) and the charge/odd electron on the double-bonded oxygen (+.O=); this record instead carries, consistently from the drawn intermediate, the oxocarbenium form (=O6(+)(H8) double-bonded, H on O6) with the odd electron localized on the former ester oxygen O4. The two are the same ionized acetic acid (C2H4O2+., m/z 60.02)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 102.0675, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_acid_radical_cation", "species_id": "acetic_acid_radical_cation", "step_id": "step_alpha_cleavage", "observed_mz": 60.0206, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
